US09422331B2
A rt suspension of tert-butyl methyl((S)-1-((2S,3S)-2-methyl-5-((3-methylquinolin-4-yl)methyl)-1-(2-(methylsulfonyl)acetyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl)carbamate (140 mg, 215 μmol) in 4 M HCl in dioxane (1.07 ml) was stirred for 2 h. The reaction was diluted with Et2O and the solids were collected by vacuum filtration, taken up in MeCN—H2O, and lyophilized to provide (S)-N-((2S,3S)-2-methyl-5-((3-methylquinolin-4-yl)methyl)-1-(2-(methylsulfonyl)acetyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide hydrochloride (113.4 mg, 90%) as a white solid. MS m/z 552 (MH)+.

reactant | tert-butyl methyl((S)-1-((2S,3S)-2-methyl-5-((3-methylquinolin-4-yl)methyl)-1-(2-(methylsulfonyl)acetyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl)carbamate | 215 μmol, 140 mg | CN(C(OC(C)(C)C)=O)[C@H](C(=O)N[C@@H]1C(N(C2=C(N([C@H]1C)C(CS(=O)(=O)C)=O)C=CC=C2)CC2=C(C=NC1=CC=CC=C21)C)=O)C | C33H41N5O7S
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 1.07 ml | O1CCOCC1 | C4H8O2
solvent | Et2O | CCOCC | C4H10O
product | (S)-N-((2S,3S)-2-methyl-5-((3-methylquinolin-4-yl)methyl)-1-(2-(methylsulfonyl)acetyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide hydrochloride | 113.4 mg, 90% | Cl.C[C@H]1[C@@H](C(N(C2=C(N1C(CS(=O)(=O)C)=O)C=CC=C2)CC2=C(C=NC1=CC=CC=C21)C)=O)NC([C@H](C)NC)=O | InChI=1S/C28H33N5O5S.ClH/c1-17-14-30-22-11-7-6-10-20(22)21(17)15-32-23-12-8-9-13-24(23)33(25(34)16-39(5,37)38)19(3)26(28(32)36)31-27(35)18(2)29-4;/h6-14,18-19,26,29H,15-16H2,1-5H3,(H,31,35);1H/t18-,19-,26-;/m0./s1
